US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (1.27 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.303 g), stirred for 15 minutes and treated with the tosylate prepared from 2-(cyclooctyloxy)ethanol (2.18 g). The mixture was heated at 60° C. overnight and worked up as in Example 20. The material from dichloromethane extraction was purified by HPLC (dichloromethane-hexane-ethyl acetate; 80:20:2) to provide 1.0 g of pure 4-[[2-(cyclooctyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester as an oil.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 1.27 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.303 g | [H-].[Na+]
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | 2-(cyclooctyloxy)ethanol | 2.18 g | C1(CCCCCCC1)OCCO | C10H20O2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-[[2-(cyclooctyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 1.0 g | COC(C(C1=CC=C(C=C1)OCCOC1CCCCCCC1)=O)=O | C19H26O5
